Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine / Aspirin / Penicillins / Tylenol / Demerol
 
Attending: ___.
 
Chief Complaint:
right thyroid nodule
 
Major Surgical or Invasive Procedure:
Right thyroid lobectomy.

 
History of Present Illness:
The patient presented with bilateral thyroid nodules, one on the 
left and one on the right.  The one on the left was benign.  The 
one on the right was sent for ThyroSeq testing and the mutations 
indicated that she might have an NIFTP lesion.  On this basis, a 
right thyroid lobectomy was recommended with the understanding 
that a completion may be required.

 
Past Medical History:
PMH: Thyroid nodule, pre-diabetes, palpitations, fibroids, 
breast pain, anxiety, depression

PSH: Total abdominal hysterectomy

 
Social History:
nurse practitioner,works in psychiatry at ___
 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric, incision is CDI no hematoma/seroma
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Brief Hospital Course:
___ with right thyroid nodule, AUS on FNA, now s/p right thyroid 
lobectomy. Surgery was uncomplicated.Details are found in op 
note, dictated separately. Postoperatively she was admitted 
overnight for observation. Her hospital course was stable. She 
had an episode of nausea and emesis after oxycodone which was 
discontinued. She ultimately was transitioned to ibuprofen and 
had good pain control. Postoperatively, patient reported some 
difficulty with swallowing described as an occasional "choking 
sensation". She was tolerating clear liquids and some solid 
foods. She had no dyspnea and vital signs were stable. Her 
surgical site had no evidence of hematoma or infection. At time 
of discharge, POD#1 patient was doing well,had good pain 
control, voiding and ambulating. Patient was instructed to self 
regulate her diet and to call office with any concerns. 
 
Medications on Admission:
___: Albuterol INH PRN, proAir INH PRN, Xanax 0.5 TID:PRN, 
Colace 100', ibuprofen PRN, omeprazole 20'
 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB/wheezing  
2.  ALPRAZolam 0.5 mg PO TID:PRN anxiety  
3.  Docusate Sodium 100 mg PO BID  
4.  Ibuprofen 400-600 mg PO Q6H:PRN Pain - Mild  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right thyroid nodule with suspicious genetic markers.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to ___ overnight for observation following 
your surgery. You did well postoperatively and may return home 
to continue your recovery. 

The following is a summary of your discharge instructions:

Medications:
For pain medication you may take acetaminophen (Tylenol) or 
ibuprofen (Motrin).You may restart all your usual home 
medications.

Wound care: 
You may shower normally. Allow warm soapy water to run over the 
wound, rinse and pat dry gently. There is no need to keep a 
dressing over the wound. Do not apply creams or ointments. Do 
not submerge the wound in a swimming pool or bath until cleared 
at your follow up visit. Do  not pull off the steri strip 
tapes--these will fall off by themselves over the next ___ 
weeks.

Diet:
You may resume your regular home diet without restriction. You 
should use stick to foods that do not upset your stomach. You 
may need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:
You may resume all of your normal home activities, except for 
straining or lifting heavy weight. We recommend you resume 
walking, exercise, bathing, per your normal regimen. 

Warning signs:
  You should contact our clinic or return to the ED immediately 
if 
  you experience any of the following signs or symptoms:
  Fever above 100.5
  Worsening pain
  Worsening GI upset, nausea/vomiting, diarrhea
  Change in the appearance of your incision, or redness, 
swelling, 
  or change in drainage from your incision
  Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___